US07423030B2
40.1. 2-(3,4-dimethylbenzoyl)-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with 3,4-dimethyl-N-methoxy-N-methylbenzamide.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,4-dimethyl-N-methoxy-N-methylbenzamide | CC=1C=C(C(=O)N(C)OC)C=CC1C | C11H15NO2
product | 2-(3,4-dimethylbenzoyl)-5-methoxybenzoic acid | CC=1C=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=CC1C | C17H16O4
